US07943609B2
(1S)-1-[(11R)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]ethanol
(11R)-11-[(1S)-1-(Benzyloxy)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (512 mg, 1.37 mmol) was dissolved in 30 mL of methanol and the solution was placed in a pressure bottle. Palladium on carbon (10%, 200 mg) and 2.5 mL of 3 M HCl in ethanol were then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 24 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with methanol and the combined filtrates were concentrated under reduced pressure. The residue was dissolved in H2O and the solution was made basic by the addition of concentrated aqueous NH4OH solution. The aqueous solution was extracted with 10% MeOH/CHCl3 several times and the combined organic layers were concentrated under reduced pressure. Chromatography (SiO2, 25-75% CMA/CHCl3) gave an off-white powder. Crystallization from ethyl acetate and methanol gave 125 mg of the desired compound as a white, fluffy solid, mp 207.6-208.7° C.

reactant | (11R)-11-[(1S)-1-(Benzyloxy)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.37 mmol, 512 mg | C(C1=CC=CC=C1)O[C@@H](C)[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C22H22N4O2
reactant | HCl | 3 M, 2.5 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (1S)-1-[(11R)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]ethanol | 125 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)[C@H](C)O | C15H16N4O2
